US07279487B2
Step 8: Preparation of benzyl 2-[3-({[4-fluoro-2-(methylsulfonyl)benzyl]amino}carbonyl)-4-hydroxy-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl(methyl)carbamate
A solution of methyl 1-{2-[[(benzyloxy)carbonyl](methyl)amino]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate (0.5 g, 1.21 mmol) in MeOH (6 mL) was treated with Hunig's base (0.33 mL, 1.82 mmol) and 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride (0.35 g, 1.46 mmol) and heated in a sealed reaction vessel at 80 degrees C. After overnight, an additional 0.5 equivalents of the amine and 1.5 equivalents of Hunig's base was added and the reaction heated until HPLC showed the starting material gone. The reaction was cooled and the solids that percipitated were collected by filtration to give pure product.

reactant | methyl 1-{2-[[(benzyloxy)carbonyl](methyl)amino]ethyl}-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylate | 1.21 mmol, 0.5 g | C(C1=CC=CC=C1)OC(=O)N(CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)OC)=O)C | C21H21N3O6
reactant | Hunig's base | 1.82 mmol, 0.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride | 1.46 mmol, 0.35 g | [Cl-].FC1=CC(=C(C=C1)C[NH3+])S(=O)(=O)C
reactant | Hunig's base | 1.5 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 6 mL | CO | CH4O
product | benzyl 2-[3-({[4-fluoro-2-(methylsulfonyl)benzyl]amino}carbonyl)-4-hydroxy-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl(methyl)carbamate | FC1=CC(=C(CNC(=O)C=2C(N(C3=CC=CN=C3C2O)CCN(C(OCC2=CC=CC=C2)=O)C)=O)C=C1)S(=O)(=O)C | C28H27FN4O7S
